US08252820B2
K. 5-(2-Benzyloxy-6-fluoro-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (1.0 g, 2.21 mmol), NaI (1.18 g, 7.87 mmol), CuI (91 mg, 0.48 mmol) and (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine (136 mg, 0.96 mmol) in dioxane (15.5 mL) is heated at 140° C. for 1.5 h in a microwave. The reaction mixture is filtered through Celite and washed with additional dioxane. It is then concentrated to a smaller volume and used directly in the next step: MS (M−H)−=461.

reactant | 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 2.21 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)Br)F)N1CC(NS1(=O)=O)=O | C15H12BrFN2O4S
reactant | NaI | 7.87 mmol, 1.18 g | [Na+].[I-]
reactant | (1R,2R)—N,N′-dimethylcyclohexane-1,2-diamine | 0.96 mmol, 136 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | dioxane | 15.5 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.48 mmol, 91 mg | [Cu]I
product | 5-(2-Benzyloxy-6-fluoro-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)I)F)N1CC(NS1(=O)=O)=O | C15H12FIN2O4S
